US09102664B2
Preparation of (R)-3-(4-(2,4-difluorophenyl)pent-4-enoyl)-4-phenyl oxazolidin-2-one (Formula-4)
To a solution of 4-(2,4-difluorophenyl)pent-4-enoic acid compound of formula-2 (100 g) in dichloromethane (800 ml), added triethylamine (97.4 g) at 25-30° C. and the reaction mixture was stirred for 15 minutes at the same temperature. The reaction mixture was cooled to 10-15° C. and added pivaloyl chloride (63 g) to the reaction mixture over a period of 45 minutes. Temperature of the reaction mixture was raised to 25-30° C. and the reaction mixture was stirred for 2 hours at 25-30° C. After completion of the reaction, added (R)-4-phenyloxazolidin-2-one compound of formula-3 (69 g), 4-dimethylamino pyridine (21 g), dimethyl formamide (37 ml) and followed by dichloromethane (200 ml) to the above reaction mixture. Heated the reaction mixture to 45° C. and stirred for 2 hours at the same temperature. After completion of the reaction, the reaction mixture was cooled to 25-30° C. Sulfuric acid was added to the reaction mixture and stirred for 15 minutes. Both organic and aqueous layers were separated and the organic layer was washed with water. Distilled off the solvent completely from the organic layer under reduced pressure and isopropyl alcohol was added to the obtained residue at 25-30° C. and stirred for 15 minutes at the same temperature. The reaction mixture was cooled to 0-10° C. and then stirred for 1½ hour at the same temperature. Filtered the obtained solid, washed with chilled isopropyl alcohol and then dried to get title compound.

reactant | 4-(2,4-difluorophenyl)pent-4-enoic acid | FC1=C(C=CC(=C1)F)C(CCC(=O)O)=C | C11H10F2O2
reactant | pivaloyl chloride | 63 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (R)-4-phenyloxazolidin-2-one | C1(=CC=CC=C1)[C@H]1NC(OC1)=O | C9H9NO2
reactant | Sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylamino pyridine | 21 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dimethyl formamide | 37 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 97.4 g | C(C)N(CC)CC | C6H15N
product | (R)-3-(4-(2,4-difluorophenyl)pent-4-enoyl)-4-phenyl oxazolidin-2-one | FC1=C(C=CC(=C1)F)C(CCC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)=C | C20H17F2NO3
